US07612075B2
4-(6-Chloro-benzo[b]thiophene-2-carbonyl)-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)piperazin-2-one
The title compound is prepared as described in EXAMPLE 123 using 6-chloro-benzo[b]thiophene-2-carboxylic acid, EXAMPLE 1 and 2-(2-oxopiperazin-1-ylmethyl)-pyrrolo[3,2-c]pyridin-1-carboxylic acid tert-butyl ester EXAMPLE 69. The mixture is stirred overnight, then concentrated to dryness. The residue is diluted with CH2Cl2 and washed with saturated sodium bicarbonate and brine. The organic layer is dried over MgSO4, filtered and concentrated in vacuo to give the title compound as a solid. The crude material can be used in the subsequent step without further purification.

reactant | 6-chloro-benzo[b]thiophene-2-carboxylic acid | ClC=1C=CC2=C(SC(=C2)C(=O)O)C1 | C9H5ClO2S
reactant | 2-(2-oxopiperazin-1-ylmethyl)-pyrrolo[3,2-c]pyridin-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C(CNCC2)=O | C17H22N4O3
product | 4-(6-Chloro-benzo[b]thiophene-2-carbonyl)-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)piperazin-2-one | ClC=1C=CC2=C(SC(=C2)C(=O)N2CC(N(CC2)CC2=CC=3C=NC=CC3N2)=O)C1 | C21H17ClN4O2S
